US05783114
4-(4-oxo-4H-pyridin-1-yl)benzoic acid
A mixture of 4-(4-oxo-4H-pyridin-1-yl)benzoic acid ethyl ester (10.0 gm, 41.1 mmol), potassium hydroxide (6.92 g, 123 mmol) and methanol (250 ml) was stirred overnight at room temperature. The mixture was acidified by dropwise addition of concentrated hydrochloric acid and the precipitate was collected by suction filtration to give the product as a white powder (9.08 g).

reactant | 4-(4-oxo-4H-pyridin-1-yl)benzoic acid ethyl ester | 41.1 mmol, 10.0 gm | C(C)OC(C1=CC=C(C=C1)N1C=CC(C=C1)=O)=O | C14H13NO3
reactant | potassium hydroxide | 123 mmol, 6.92 g | [OH-].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 250 ml | CO | CH4O
product | 4-(4-oxo-4H-pyridin-1-yl)benzoic acid | 9.08 g | O=C1C=CN(C=C1)C1=CC=C(C(=O)O)C=C1 | C12H9NO3
